US05659065
f1) 4-Methoxy-3-(3-methoxypropoxy)-benzyl alcohol
A 30% solution of sodium methanolate in methanol (0.86 liter, 4.64 mol) is added dropwise at 61°-64° C. to a solution of 4-methoxy-3-(3-bromopropoxy)-benzaldehyde (844 g) in methanol (4.15 liters). The batch is stirred under reflux for a further 1.5 hours, then allowed to cool to room temperature, and water (150 ml) is added. The methanol is removed in a rotary evaporator (30° C. bath temperature) and the residue is then partitioned between diethyl ether (3×3 liters) and ice-cold 4N hydrochloric acid. The combined organic phases are washed with water and saturated sodium hydrogen carbonate solution, dried over magnesium sulfate and concentrated. The residue is purified by FC on silica gel (ethyl acetate/hexane 1:3) and the title compound is obtained in the form of an oil (498 g): Rf (ethyl acetate/hexane 1:2)=0.18.

reactant | sodium methanolate | C[O-].[Na+]
reactant | 4-methoxy-3-(3-bromopropoxy)-benzaldehyde | 844 g | COC1=C(C=C(C=O)C=C1)OCCCBr | C11H13BrO3
reactant | water | 150 ml | O | H2O
solvent | methanol | 4.15 liters | CO | CH4O
solvent | methanol | 4.64 mol, 0.86 liter | CO | CH4O
product | 4-Methoxy-3-(3-methoxypropoxy)-benzyl alcohol | COC1=C(C=C(CO)C=C1)OCCCOC | C12H18O4
